US04713393
A flame dried, N2 purged, 100 ml round bottom flask equipped with a dropping funnel, thermometer and magnetic stirrer was charged with 5-(benzyloxy)-2,3-dihydrobenzofuran-6-yl methyltriphenylphosphonium iodide (3.0 g, 4.8 mmoles) and anhydrous THF (15 ml). The suspension was cooled to -20° C. and a 1.55M solution of n-butyllithium (3.1 ml, 4.8 mmoles) was added dropwise, while maintaining an internal reaction temperature of -20° C. The suspension became a red solution and stirring was continued 1 hour more at 0° C. The reaction mixture was chilled to -25° C. and a solution of 1-methylimidazole-2-carboxaldehyde (525 mg, 4.8 mmoles) in THF. (10 ml) was added dropwise over 5 minutes. The reaction mixture was allowed to warm to room temperature and stir for 12 hours. It was then cooled to 0° C. and water (1.0 ml) added. It was further stirred for 1/2 hour whereupon the solvent was removed in vacuo to afford the crude product. The crude product was dissolved in ethyl ether (20 ml) and water (20 ml). The layers were partitioned and separated. The organic phase was washed with water (2×20 ml), dried over MgSO4, suction filtered, and the filtrate concentrated in vacuo to yield a crude yellow oil. Further purification was achieved by high performance liquid chromatography to produce approximately a 1:1 ratio of cis and trans isomers of 1-(5-benzyloxy-2,3-dihydrobenzofuran-6-yl)-2-(1-methyl-imidazol-2-yl)ethene (600 mg, 38%).

reactant | 5-(benzyloxy)-2,3-dihydrobenzofuran-6-yl methyltriphenylphosphonium iodide | 4.8 mmoles, 3.0 g | [I-].C(C1=CC=CC=C1)OC=1C(=CC2=C(CCO2)C1)C1=C(C=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C
reactant | n-butyllithium | 4.8 mmoles, 3.1 ml | C(CCC)[Li]
reactant | 1-methylimidazole-2-carboxaldehyde | 4.8 mmoles, 525 mg | CN1C(=NC=C1)C=O | C5H6N2O
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | water | 20 ml | O | H2O
solvent | water | 1.0 ml | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-(5-benzyloxy-2,3-dihydrobenzofuran-6-yl)-2-(1-methyl-imidazol-2-yl)ethene | 600 mg, 38% | C(C1=CC=CC=C1)OC=1C(=CC2=C(CCO2)C1)C=CC=1N(C=CN1)C | C21H20N2O2
